US07122543B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate (15.0 g, 32.1459 mmol) was dissolved in methanol (200 ml), added to a methanolic suspension (200 ml) of 10% palladium-carbon (1.0 g) and stirred for 16 hours at room temperature in a hydrogen atmosphere. The reaction solution was filtered and the filtrate was concentrated under reduced pressure to give the title compound (11.2 g, 29.7340 mmol, 92%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate | 32.1459 mmol, 15.0 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C27H30O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-carbon | 200 ml, 1.0 g | [C].[Pd]
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 29.7340 mmol, 11.2 g, 92% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
